US07060721B1
4-Bromo-2-ethyl-1-(methoxymethyl)imidazole-5-carbaldehyde (365 g) was dissolved in 35% conc. hydrochloric acid (1.8 L), and the mixture was heated at 90° C. for 20 hr. The solvent was evaporated under reduced pressure, and sodium hydrogencarbonate was added to the residue under ice-cooling until the mixture assumed weak alkalinity. The mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and diisopropyl ether was added to the residue. The mixture was heated and allowed to cool. The precipitated crystals were collected by filtration and dried by heating under reduced pressure to give 4-chloro-2-ethylimidazole-5-carbaldehyde (211.5 g) as brown crystals.

reactant | 4-Bromo-2-ethyl-1-(methoxymethyl)imidazole-5-carbaldehyde | 365 g | BrC=1N=C(N(C1C=O)COC)CC | C8H11BrN2O2
reactant | hydrochloric acid | 1.8 L | Cl | ClH
product | 4-chloro-2-ethylimidazole-5-carbaldehyde | 211.5 g | ClC=1N=C(NC1C=O)CC | C6H7ClN2O
